US07820823B2
3-{Benzyloxycarbonyl-[2-fluoro-4-{(5R)-5-hydroxymethyl-2-oxo-oxazolidin-3-yl}-phenyl]-amino}-azetidine-1-carboxylic Acid Benzyl Ester
To a solution of 0.916 g of 3-(benzyloxycarbonyl-(4-benzyloxycarbonylamino-2-fluoro-phenyl)-amino]-azetidine-1-carboxylic acid benzyl ester (1.56 mmol) in 5 ml THF were added at −15° C. 0.767 ml of a 2.25M LDA (1.7 mmol) solution in THF. The mixture was allowed to warm up to 0° C. and stirred for 5 min. Then, 0.26 ml of (R)-glycidyl butyrate (1.87 mmol) was added and the yellow solution was stirred for 2 h at RT. The reaction was quenched with a saturated solution of ammonium chloride. The mixture was diluted with ethyl acetate, the org. layer washed with water and brine and dried over Mg sulfate. The residue was purified by chromatography using a 95/5 dichloromethane/methanol mixture as eluent.

reactant | 3-(benzyloxycarbonyl-(4-benzyloxycarbonylamino-2-fluoro-phenyl)-amino]-azetidine-1-carboxylic acid benzyl ester | 1.56 mmol, 0.916 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)N(C1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F)C(=O)OCC1=CC=CC=C1 | C33H30FN3O6
reactant | LDA | 1.7 mmol, 2.25M | [Li+].CC(C)[N-]C(C)C
reactant | (R)-glycidyl butyrate | 1.87 mmol, 0.26 ml | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-{Benzyloxycarbonyl-[2-fluoro-4-{(5R)-5-hydroxymethyl-2-oxo-oxazolidin-3-yl}-phenyl]-amino}-azetidine-1-carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1CC(C1)N(C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F)C(=O)OCC1=CC=CC=C1 | C29H28FN3O7
